US09403773B2
3-(5-Fluoro-4-oxo-8-propoxy-1,4-dihydroquinolin-3-yl)thiophene-2-carbaldehyde (120 mg, 0.39 mmol) was suspended in ethanol (5 ml), and sodium borohydride (19.24 mg) was added to the suspension. The resulting mixture was stirred at room temperature for 1 hour. Dichloromethane was added to the reaction mixture, which was washed with water. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was then purified by silica gel column chromatography (dichloromethane:methanol=30:1). The purified product was concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate to thereby obtain 110 mg of powdery white 5-fluoro-3-(2-hydroxymethylthiophen-3-yl)-8-propoxy-1H-quinolin-4-one (yield: 82%).

reactant | 3-(5-Fluoro-4-oxo-8-propoxy-1,4-dihydroquinolin-3-yl)thiophene-2-carbaldehyde | 0.39 mmol, 120 mg | FC1=C2C(C(=CNC2=C(C=C1)OCCC)C1=C(SC=C1)C=O)=O | C17H14FNO3S
reactant | sodium borohydride | 19.24 mg | [BH4-].[Na+]
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-fluoro-3-(2-hydroxymethylthiophen-3-yl)-8-propoxy-1H-quinolin-4-one | 110 mg, yield: 82% | FC1=C2C(C(=CNC2=C(C=C1)OCCC)C1=C(SC=C1)CO)=O | C17H16FNO3S
